US05677324
4-Bromophenyl Propanoate
Triethylamine (219 ml) was added to a solution of 4-bromophenol (259 g) and 4-dimethylaminopyridine (1.5 g) in dichloromethane (1000 ml) at 0° C. at such a rate that the temperature did not rise above 20° C. When the addition was complete propionyl chloride (137 ml) was added in portions over 1 hour such that the temperature did not rise above 20° C. Finally, the mixture was stirred at room temperature for 2 hours. Water (700 ml) was added and the layers were separated. The dichloromethane solution was washed with brine (500 ml), dried (MgSO4) and concentrated in vacuo to give the title compound as an oil, 344 g.

reactant | Triethylamine | 219 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromophenol | 259 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | propionyl chloride | 137 ml | C(CC)(=O)Cl | C3H5ClO
reactant | Water | 700 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 4-Bromophenyl Propanoate | C(CC)(=O)OC1=CC=C(C=C1)Br | C9H9BrO2
